US06610846B1
A solution of 3-cyclopentyl-2-(4-methanesulfonyl-phenyl)-propionic acid (300 mg, 1.01 mmol), benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate (717 mg, 1.62 mmol), triethylamine (420 μL, 3.03 mmol), and 2-amino-thiazole-5-carboxylic acid ethyl ester: (279 mg, 1.62 mmol) in methylene chloride (10 mL) was stirred at 25° C. under nitrogen for 14 h. The reaction mixture was partitioned between water and methylene chloride. The organic layer was sequentially washed with a 1N aqueous hydrochloric acid solution (1×10 mL), water (1×10 mL), and a saturated aqueous sodium bicarbonate solution (1×10 mL). The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. Biotage chromatography (FLASH 40S, Silica, 10/11 hexanes/ethyl ether) afforded 2-[3-cyclopentyl-2-(4-methanesulfonyl-phenyl)-propionylamino]-thiazole-5-carboxylic acid ethyl ester (448 mg, 98%) as a white solid: mp 100-103° C.; EI-HRMS m/e calcd for C21H26N2O5S2(M+) 450.1283, found 450.1285.

reactant | 3-cyclopentyl-2-(4-methanesulfonyl-phenyl)-propionic acid | 1.01 mmol, 300 mg | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)S(=O)(=O)C | C15H20O4S
reactant | benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate | 1.62 mmol, 717 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 3.03 mmol, 420 μL | C(C)N(CC)CC | C6H15N
reactant | 2-amino-thiazole-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=CN=C(S1)N | C6H8N2O2S
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-[3-cyclopentyl-2-(4-methanesulfonyl-phenyl)-propionylamino]-thiazole-5-carboxylic acid ethyl ester | 448 mg, 98% | C(C)OC(=O)C1=CN=C(S1)NC(C(CC1CCCC1)C1=CC=C(C=C1)S(=O)(=O)C)=O | C21H26N2O5S2
